US06986981B2
9.6 g (39.3 mmol) of 2-hydroxy-1,3-diphenoxypropane are dissolved in 80 ml of tetrahydrofurane (THF) and cooled by an ice bath. To the solution are added dropwise 6.8 g (86.4 mmol) of acetyl chloride and 6.0 g (59.0 mmol) of triethylamine successively. The reaction mixture is stirred at room temperature overnight, poured into 50 ml of water, and extracted with ethyl acetate. The organic phase is washed with water and brine, dried over MgSO4, and concentrated. The residue is purified by flash chromatography on silica gel with ethyl acetate and hexane (1:9) as eluent, yielding 5.1 g of 2-acetyloxy-1,3-diphenoxypropane as a colorless liquid.

reactant | 2-hydroxy-1,3-diphenoxypropane | 39.3 mmol, 9.6 g | OC(COC1=CC=CC=C1)COC1=CC=CC=C1 | C15H16O3
reactant | acetyl chloride | 86.4 mmol, 6.8 g | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 59.0 mmol, 6.0 g | C(C)N(CC)CC | C6H15N
reactant | water | 50 ml | O | H2O
solvent | tetrahydrofurane | 80 ml | O1CCCC1 | C4H8O
product | 2-acetyloxy-1,3-diphenoxypropane | 5.1 g | C(C)(=O)OC(COC1=CC=CC=C1)COC1=CC=CC=C1 | C17H18O4
